US06949542B2
7-Cyclopropylmethoxy-4-[3-(2-methyl-pyridin-4-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (5-cyclopropylmethoxy-2-{3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example M177) (279 mg, 0.48 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as an off-white solid (144 mg, 64%).

reactant | (5-cyclopropylmethoxy-2-{3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.48 mmol, 279 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC1CC1)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C)=O)=O | C31H32F3N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Cyclopropylmethoxy-4-[3-(2-methyl-pyridin-4-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | C1(CC1)COC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC(=NC=C2)C)=O)C=C1C(F)(F)F | C26H22F3N3O2
